US06320050B1
A solution of freshly prepared lithium diisopropylamide (23 mL of a 0.31M stock solution, 7.13 mmol) cooled to −78° C. was treated with (3-methoxy-phenyl)-acetic acid methyl ester (1.07 g, 5.94 mmol) in tetrahydrofuran/1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (14.8 mL, 3:1). The resulting solution was stirred at −78° C. for 45 min. At this time, the reaction was treated with a solution of iodomethylcyclopentane (1.37 g, 6.53 mmol) in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (1.16 mL). The reaction mixture was stirred at −78° C. for 3 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 16 h. At this time, the reaction was quenched by the dropwise addition of a saturated aqueous ammonium chloride solution. This solution was diluted with water (100 mL) and extracted into ethyl acetate (3×50 mL). The organics were washed with a saturated aqueous lithium chloride solution (1×75 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 95/5 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3-methoxy-phenyl)-propionic acid methyl ester (1.39 g, 89.1%) as a clear oil: EI-HRMS m/e calcd for C16H22O3 (M+) 262.1568, found 262.1561.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (3-methoxy-phenyl)-acetic acid methyl ester | 5.94 mmol, 1.07 g | COC(CC1=CC(=CC=C1)OC)=O | C10H12O3
reactant | iodomethylcyclopentane | 6.53 mmol, 1.37 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 14.8 mL | O1CCCC1.CN1C(N(CCC1)C)=O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 1.16 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 3-cyclopentyl-2-(3-methoxy-phenyl)-propionic acid methyl ester | 1.39 g, 89.1% | COC(C(CC1CCCC1)C1=CC(=CC=C1)OC)=O | C16H22O3
